US08084448B2
B. 1-Benzyloxymethyl-5-[(3-benzyloxy-4-nitrophenyl)-(tert-butyldimethylsilanyloxy)-methyl]-1H-pyrazole
A mixture of (2-benzyloxymethyl-2H-pyrazol-3-yl)-(3-benzyloxy-4-nitrophenyl)-methanol (392 mg, 0.881 mmol), TBSOTf (0.25 mL, 1.09 mmol) and 2,6-lutidine (0.153 mL, 1.32 mmol) in CH2Cl2 is stirred at RT for 2 h. The mixture is partitioned between CH2Cl2 and aqueous NaHCO3. The organic phase is dried over MgSO4 and concentrated. The residue is purified by flash chromatography to give the title compound.

reactant | (2-benzyloxymethyl-2H-pyrazol-3-yl)-(3-benzyloxy-4-nitrophenyl)-methanol | 0.881 mmol, 392 mg | C(C1=CC=CC=C1)OCN1N=CC=C1C(O)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C25H23N3O5
reactant | TBSOTf | 1.09 mmol, 0.25 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | 2,6-lutidine | 1.32 mmol, 0.153 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-Benzyloxymethyl-5-[(3-benzyloxy-4-nitrophenyl)-(tert-butyldimethylsilanyloxy)-methyl]-1H-pyrazole | C(C1=CC=CC=C1)OCN1N=CC=C1C(O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1 | C31H37N3O5Si
